US08975282B2
Step 2) 3-((4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamoyl)cyclobutyl acetate
To a solution of N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (50 mg, 0.12 mmol), HOAT (19 mg, 0.24 mmol), EDCI (28 mg, 0.14 mmol) and DIPEA (0.1 mL, 0.6 mmol) in DMF (5 mL) was added a solution of 3-acetoxycyclobutanecarboxylic acid in DMF (5 mL) at 0° C. The reaction was heated at 120° C. for 5 hours, then cooled to rt, diluted with water (50 mL) and extracted with EtOAc (30 mL×3). The combined organic phases were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The resulted residue was purified by a silica gel column chromatography (DCM/EtOAc (v/v)=1/2) to give the title compound as a white solid (20 mg, 30%).

reactant | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.12 mmol, 50 mg | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
reactant | HOAT | 0.24 mmol, 19 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.14 mmol, 28 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.6 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-acetoxycyclobutanecarboxylic acid | C(C)(=O)OC1CC(C1)C(=O)O | C7H10O4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-((4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamoyl)cyclobutyl acetate | 20 mg, 30% | C(C)(=O)OC1CC(C1)C(NC1=NC=CC(=C1)OC=1C=NC(=CC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)=O | C29H28N6O6
